US08703805B2
Preparation of [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methanol
LiBH4 (1.0M in THF, 14 mL, 28 mmol) was added dropwise at rt to a stirred solution of 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester (4.38 g, 9.26 mmol) in anhydrous THF (100 mL) under N2, and the resulting mixture was stirred at rt for 3d. Acetone (2 mL) and water (2 mL) was added successively at 0° C. and the solid was filtered off. The filtrate was concentrated in vacuo. The residue was taken up in EtOAc (200 mL), washed with water and brine, dried over Na2SO4 and evaporated in vacuo. The crude product was purified by flash chromatography (0-90% EtOAc/hexanes) to give the title compound as a white solid (3.1 g, 75%). 1HNMR (CDCl3): δ 8.04 (m, 1H), 7.84-7.81 (m, 1H), 7.74-7.72 (m, 1H), 7.58-7.44 (m, 5H), 7.21 (d, 1H), 6.76 (d, 1H), 6.69 (s, 1H), 4.80 (s, 2H), 3.07 (s, 3H), 1.65 (brs, 1H). MS(ES): 445 [M+H]+.

reactant | LiBH4 | 28 mmol, 1.0M, 14 mL | [Li+].[BH4-]
reactant | 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester | 9.26 mmol, 4.38 g | COC(=O)C1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C22H17ClN2O4S2
reactant | Acetone | 2 mL | CC(=O)C | C3H6O
reactant | water | 2 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methanol | 3.1 g, 75% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CO | C21H17ClN2O3S2
